US04958037
2,5-Dihydro-2,5-dimethoxy-2-(3-butynyl)furan
To a stirred mixture of 6.01 g of 4-(2-furyl)-1-butyne [Perfumery Essent. Oil Record., 57, 364 (1966)], 10.6 g of sodium carbonate and 150 ml of methanol at -25° C., was added dropwise a solution of 8.0 g of bromine in 50 ml of methanol during a period of 3 hours. The mixture was then stirred at 25° C. for 45 minutes and concentrated in vacuo. The residue was partitioned with ether and brine. The ether layer was separated, washed with brine, dried and concentrated. Distillation of the residue at 0.5mm gave 6.62 g of the desired compound as a light yellow liquid, bp 57°-61° C. (0.5 mm).

reactant | 4-(2-furyl)-1-butyne | 6.01 g | O1C(=CC=C1)CCC#C | C8H8O
reactant | sodium carbonate | 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromine | 8.0 g | BrBr | Br2
reactant | methanol | 50 ml | CO | CH4O
reactant | methanol | 150 ml | CO | CH4O
product | 2,5-Dihydro-2,5-dimethoxy-2-(3-butynyl)furan | 6.62 g | COC1(OC(C=C1)OC)CCC#C | C10H14O3
